US06013649
Part H: A cooled solution of 2.1 g (5 mmol) of N1-(2-morpholinoethyl)-2--hydroxy-4-[(3-phenoxybenzyl)sulfonyl]butanamide from Part G in 55 mL of anhydrous CH2Cl2 was treated with 0.5 mL (0.8 g, 7 mM) of methanesulfonyl chloride, followed by 1.0 mL (0.7 g, 7 mM) of triethylamine. After 1 hour, the reaction was concentrated in vacuo, and the residue was partitioned between ethyl acetate and saturated sodium bicarbonate solution. The layers were separated and the aqueous layer was extracted with ethyl acetate (1×). The organic layers were combined and washed with brine, dried (MgSO4) and concentrated to yield 2.5 g of 1-[(2-morpholinoethyl)amino]carbonyl-3-[(3-phenoxybenzyl)sulfonyl]propyl methanesulfonate suitable for the next reaction.

reactant | N1-(2-morpholinoethyl)-2--hydroxy-4-[(3-phenoxybenzyl)sulfonyl]butanamide | 5 mmol, 2.1 g | O1CCN(CC1)CCNC(C(CCS(=O)(=O)CC1=CC(=CC=C1)OC1=CC=CC=C1)O)=O | C23H30N2O6S
reactant | methanesulfonyl chloride | 7 mM, 0.5 mL, 0.8 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 7 mM, 1.0 mL, 0.7 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 55 mL | C(Cl)Cl | CH2Cl2
product | 1-[(2-morpholinoethyl)amino]carbonyl-3-[(3-phenoxybenzyl)sulfonyl]propyl methanesulfonate | 2.5 g | CS(=O)(=O)OC(CCS(=O)(=O)CC1=CC(=CC=C1)OC1=CC=CC=C1)C(=O)NCCN1CCOCC1 | C24H32N2O8S2
